US08067362B2
Heptadecanedioic Acid Mono-Tert-Butyl Ester
4-{[(2-tert-Butoxycarbonylethyl)-(16-tert-butoxycarbonylhexadecanoyl)-amino]methyl}benzoic acid 2,5-dioxopyrrolidin-1-yl ester was reacted with A1,B1-diBoc desB30 insulin as described in general procedure B. The work up was similar using a gradient 28-48% acetonitrile/water containing 0.1% TFA.

reactant | 4-{[(2-tert-Butoxycarbonylethyl)-(16-tert-butoxycarbonylhexadecanoyl)-amino]methyl}benzoic acid 2,5-dioxopyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)CN(C(CCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CCC(=O)OC(C)(C)C)=O | C40H62N2O9
reactant | acetonitrile water | C(C)#N.O
product | Heptadecanedioic Acid Mono-Tert-Butyl Ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCCC(=O)O)=O | C21H40O4
